US07087789B2
Into the mixture of PhSO2CF2CH(OH)Ph (120 mg, 0.4 mmol) and 4-chlorobenzaldehyde (113 mg, 0.8 mmol) in DMF (3 mL) at −50° C., was added t-BuOK (90 mg, 0.8 mmol) in 2 mL DMF. The reaction mixture was stirred at −50° C. to RT overnight. The reaction was then quenched with cold NaCl aqueous solution, followed by extraction with Et2O (20 mL×3). After drying over MgSO4 and solvent removal, the product 2,2-Difluoro-1-phenyl-3-(4′-chlorophenyl)-1,3-propanediol was obtained by chromatography as a white solid, 76% yield. For anti-isomer: 1H NMR (CDCl3): δ 3.22 (m, 2H); 5.04 (td, J=11.0 Hz, 2H); 7.36 (m, 9H). 13C NMR (CDCl3): δ 72.9 (t, J=29 Hz); 73.8 (t, J=29 Hz); 118.7 (t, J=259 Hz); 127.6; 128.6; 129.0; 134.3; 134.8. 19F NMR(CDCl3): δ −118.2˜120.1 (m).

reactant | PhSO2CF2CH(OH)Ph | 0.4 mmol, 120 mg | C1(=CC=CC=C1)S(=O)(=O)C(F)(F)C(O)C1=CC=CC=C1 | C14H12F2O3S
reactant | 4-chlorobenzaldehyde | 0.8 mmol, 113 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | t-BuOK | 0.8 mmol, 90 mg | CC(C)(C)[O-].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2,2-Difluoro-1-phenyl-3-(4′-chlorophenyl)-1,3-propanediol | 76% yield | FC(C(O)C1=CC=CC=C1)(C(O)C1=CC=C(C=C1)Cl)F | C15H13ClF2O2
